US05185251
Step E: Preparation of 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-benzyloxymethyl-2-benzyloxypyridine
To a suspension of [(benzoxazol-2-yl)methyl]triphenylphosphonium chloride (1.77 g, 4.12 mmol) (prepared using substantially the same procedures described in Example 5, but substituting 2-aminophenol and the intermediate thereof for the 2,5-dimethyl-6-aminophenol and its corresponding intermediate used therein), in dry tetrahydrofuran (20 mL), under a nitrogen atmosphere, was added 60% NaH/mineral oil (0.42 g, 10 mmol). After 0.5 hour a solution of 2-benzyloxy-5-ethyl-6-benzyloxymethylnicotinaldehyde (1.44 g, 4.0 mmol) in tetrahydrofuran (10 mL) was added and the reaction mixture was refluxed for 23 hours. The reaction was cooled, neutralized with acetic acid and partitioned between water and chloroform. The chloroform layer was washed with NaHCO3 solution, dried, filtered through a pad of charcoal and evaporated. This material was dissolved in chloroform and flash chromatographed through silica gel to give pure product as a yellow oil. The product was a mixture of cis and trans olefins.

reactant | [(benzoxazol-2-yl)methyl]triphenylphosphonium chloride | 4.12 mmol, 1.77 g | [Cl-].O1C(=NC2=C1C=CC=C2)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2
reactant | 2-aminophenol | NC1=C(C=CC=C1)O | C6H7NO
reactant | 2,5-dimethyl-6-aminophenol | CC1=C(C(=C(C=C1)C)N)O | C8H11NO
reactant | NaH | [H-].[Na+]
reactant | 2-benzyloxy-5-ethyl-6-benzyloxymethylnicotinaldehyde | 4.0 mmol, 1.44 g | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C(=N1)COCC1=CC=CC=C1)CC | C23H23NO3
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-[2-(benzoxazol-2-yl)ethenyl]-5-ethyl-6-benzyloxymethyl-2-benzyloxypyridine | O1C(=NC2=C1C=CC=C2)C=CC=2C(=NC(=C(C2)CC)COCC2=CC=CC=C2)OCC2=CC=CC=C2 | C31H28N2O3
